### PR TITLE
[Merged by Bors] - chore: use mixin ordered algebraic typeclasses (part 1)

### PR DESCRIPTION
**Pull request by astrainfinita**
---

- [x] depends on: #20593

[diff](https://github.com/leanprover-community/mathlib4/compare/FR_ordered_mixin..FR_ordered_mixin_lemmas)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jcommelin** [comment]
!bench

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 1]
```diff
@@ -873,7 +878,10 @@ def evalInv : PositivityExt where eval {u α} zα pα e := do
 @[positivity _ ^ (0 : ℤ), Pow.pow _ (0 : ℤ)]
 def evalPowZeroInt : PositivityExt where eval {u α} _zα _pα e := do
   let .app (.app _ (a : Q($α))) _ ← withReducible (whnf e) | throwError "not ^"
-  _ ← synthInstanceQ (q(LinearOrderedSemifield $α) : Q(Type u))
+  let _a ← synthInstanceQ (q(Semifield $α) : Q(Type u))
+  let _a ← synthInstanceQ (q(LinearOrder $α) : Q(Type u))
+  let _a ← synthInstanceQ (q(IsStrictOrderedRing $α) : Q(Prop))
+  assumeInstancesCommute
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/Field/Basic.lean:884]: Just spotting things with are not "obviously" correct. I don't know anything about metaprogramming, so I don't know why you have inserted an `assumeInstancesCommute` here.

File: Mathlib/Algebra/Order/Field/Canonical.lean [hunk 2]
```diff
@@ -21,18 +21,19 @@ structure CanonicallyLinearOrderedSemifield (α : Type*) extends CanonicallyOrde
...
-`LinearOrderedSemifield`. -/
-abbrev LinearOrderedSemifield.toLinearOrderedCommGroupWithZero :
-    LinearOrderedCommGroupWithZero α where
-  __ := ‹LinearOrderedSemifield α›
-  bot := 0
-  bot_le := zero_le
-  mul_le_mul_left _ _ h _:= mul_le_mul_of_nonneg_left h <| zero_le _
+/-- Construct a `LinearOrderedCommGroupWithZero` from a canonically linear ordered semifield. -/
+abbrev CanonicallyOrderedAdd.toLinearOrderedCommGroupWithZero :
+    LinearOrderedCommGroupWithZero α :=
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/Field/Canonical.lean:29]: could you keep the `where` syntax?

File: Mathlib/Algebra/Order/Group/Indicator.lean [hunk 3]
```diff
@@ -221,7 +220,7 @@ lemma mulIndicator_le {s : Set α} {f g : α → M} (hfg : ∀ a ∈ s, f a ≤
 end CanonicallyOrderedMul
 
 section LinearOrderedCommGroup
-variable [LinearOrderedCommGroup M]
+variable [CommGroup M] [LinearOrder M]
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/Group/Indicator.lean:223]:
```suggestion
variable [CommGroup M] [Lattice M]
```
should be enough. Maybe also change the name of the section then?

File: Mathlib/Algebra/Order/Field/Basic.lean (hunk 1 above)
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Field/Basic.lean:884]: I don't feel confident to sign off on this addition of `assumeInstancesCommute` because I don't understand the code.

File: Mathlib/Algebra/Order/Field/Power.lean [hunk 4]
```diff
@@ -203,7 +206,8 @@ def evalZPow : PositivityExt where eval {u α} zα pα e := do
     | _ => throwError "not a ^ n where n is a literal or a negated literal"
   orElse result do
     let ra ← core zα pα a
-    let ofNonneg (pa : Q(0 ≤ $a)) (_oα : Q(LinearOrderedSemifield $α)) :
+    let ofNonneg (pa : Q(0 ≤ $a))
+        (_oα : Q(Semifield $α)) (_oα : Q(LinearOrder $α)) (_oα : Q(IsStrictOrderedRing $α)) :
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Field/Power.lean:210]: Is it OK here and in other places to use the same variable names?

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 5]
```diff
@@ -266,8 +266,6 @@ theorem monotone_iff_map_nonpos : Monotone (f : α → β) ↔ ∀ a ≤ 0, f a
 theorem antitone_iff_map_nonneg : Antitone (f : α → β) ↔ ∀ a ≤ 0, 0 ≤ f a :=
   monotone_comp_ofDual_iff.symm.trans <| monotone_iff_map_nonneg (α := αᵒᵈ) (iamhc := iamhc) _
 
-variable [AddLeftStrictMono β]
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/Hom/Monoid.lean:269]: Just to point out that there is a strict improvement here: this typeclass was not necessary before, but this wasn't known to typeclass inference at this stage of the library.

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 6]
```diff
@@ -496,7 +498,8 @@ end OrderedCommMonoid
 
 section OrderedCommGroup
 
-variable {hα : OrderedCommGroup α} {hβ : OrderedCommGroup β}
+variable [CommGroup α] [PartialOrder α] [IsOrderedMonoid α]
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/Hom/Monoid.lean:501]: Do you understand why these were implicit variables instead of typeclasses? In the previous section, you have respected this choice, but here you have changed.

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 7]
```diff
@@ -661,7 +664,7 @@ end Preorder
 
 section OrderedCommGroup
 
-variable {hα : OrderedCommGroup α} {hβ : OrderedCommGroup β}
+variable [CommGroup α] [PartialOrder α] [CommGroup β] [PartialOrder β]
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/Hom/Monoid.lean:667]: ditto

File: Mathlib/Algebra/Order/Interval/Set/Instances.lean [hunk 8]
```diff
@@ -123,21 +125,23 @@ theorem mul_le_right {x y : Icc (0 : α) 1} : x * y ≤ y :=
 instance monoidWithZero : MonoidWithZero (Icc (0 : α) 1) := fast_instance%
   Subtype.coe_injective.monoidWithZero _ coe_zero coe_one coe_mul coe_pow
 
-instance commMonoidWithZero {α : Type*} [OrderedCommSemiring α] :
-    CommMonoidWithZero (Icc (0 : α) 1) := fast_instance%
+instance commMonoidWithZero {α : Type*} [CommSemiring α] [PartialOrder α] [IsOrderedRing α] :
+    CommMonoidWithZero (Icc (0 : α) 1) :=
```
Comment (sgouezel) [inline Mathlib/Algebra/Order/Interval/Set/Instances.lean:129]: why did you get rid of the `fast_instance%` here? Same thing below, several times

File: Mathlib/Algebra/Order/Interval/Basic.lean [hunk 9]
```diff
@@ -657,16 +667,19 @@ open Lean Meta Qq
 /-- Extension for the `positivity` tactic: The length of an interval is always nonnegative. -/
 @[positivity NonemptyInterval.length _]
 def evalNonemptyIntervalLength : PositivityExt where
-  eval {u _α} _ _ e := do
-    let ~q(@NonemptyInterval.length _ $inst $a) := e | throwError "not NonemptyInterval.length"
+  eval {u α} _ _ e := do
+    let ~q(@NonemptyInterval.length _ $ig $ipo $a) := e |
+      throwError "not NonemptyInterval.length"
+    let _i ← synthInstanceQ q(IsOrderedAddMonoid $α)
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Interval/Basic.lean:673]: Again I don't want to sign off on this part of the PR because I don't understand it.

File: Mathlib/Algebra/Order/Interval/Set/Instances.lean (hunk 8 above)
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Interval/Set/Instances.lean:129]: I don't understand `fast_instance%` so I don't understand why it was removed here (and in 7 or so other places in this file)

**Review by sgouezel — COMMENTED** [review]
Review of the beginning of the file, I have to stop for now. Thanks a lot for doing this!

File: Mathlib/Algebra/Order/Monovary.lean [hunk 10]
```diff
@@ -74,6 +83,8 @@ lemma antivaryOn_inv_right : AntivaryOn f g⁻¹ s ↔ MonovaryOn f g s := by
 @[to_additive] alias ⟨Monovary.of_inv, Monovary.inv⟩ := monovary_inv
 @[to_additive] alias ⟨Antivary.of_inv, Antivary.inv⟩ := antivary_inv
 
+omit [CommGroup β] [IsOrderedMonoid β]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Monovary.lean:86]: This is fine but it looks to me like you could have not even introduced these typeclass assumptions at all in this section!

File: Mathlib/Algebra/Order/Monovary.lean [hunk 11]
```diff
@@ -232,21 +244,26 @@ lemma Antivary.pow_right₀ (hg : 0 ≤ g) (hfg : Antivary f g) (n : ℕ) : Anti
 end LinearOrderedSemiring
 
 section LinearOrderedSemifield
-variable [LinearOrderedSemifield α] [LinearOrderedSemifield β] {s : Set ι} {f f₁ f₂ : ι → α}
-  {g g₁ g₂ : ι → β}
+variable [Semifield α] [LinearOrder α] [IsStrictOrderedRing α]
+  [Semifield β] [LinearOrder β] [IsStrictOrderedRing β]
+  {s : Set ι} {f f₁ f₂ : ι → α} {g g₁ g₂ : ι → β}
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Monovary.lean:249]: Similarly here there looks to be a case for simply not making the assumptions `[Semifield β] [IsStrictOrderedRing β]` at this point (although it might permute the ordering of typeclass assumptions if you do this :-( )

File: Mathlib/Algebra/Order/Nonneg/Field.lean [hunk 12]
```diff
@@ -94,7 +94,13 @@ instance instNNRatSMul : SMul ℚ≥0 {x : α // 0 ≤ x} where
     (⟨q • a, by rw [NNRat.smul_def]; exact mul_nonneg q.cast_nonneg ha⟩ : {x : α // 0 ≤ x}) =
       q • a := rfl
 
-instance linearOrderedSemifield : LinearOrderedSemifield { x : α // 0 ≤ x } := fast_instance%
+instance semifield : Semifield { x : α // 0 ≤ x } :=
```
Comment (kbuzzard) [inline Mathlib/Algebra/Order/Nonneg/Field.lean:97]: Why no `fast_instance%` here? I should be clear that I don't know what this does, I'm just noting that it's missing here but is present for `linearOrderedSemifield`.

File: Mathlib/Data/Rat/Cast/Order.lean [hunk 13]
```diff
@@ -263,11 +263,15 @@ def evalRatCast : PositivityExt where eval {u α} _zα _pα e := do
   let ~q(@Rat.cast _ (_) ($a : ℚ)) := e | throwError "not Rat.cast"
   match ← core q(inferInstance) q(inferInstance) a with
   | .positive pa =>
-    let _oα ← synthInstanceQ q(LinearOrderedField $α)
+    let _oα ← synthInstanceQ q(Field $α)
+    let _oα ← synthInstanceQ q(LinearOrder $α)
+    let _oα ← synthInstanceQ q(IsStrictOrderedRing $α)
```
Comment (kbuzzard) [inline Mathlib/Data/Rat/Cast/Order.lean:268]: (again is it fine that all these instances have the same name? I don't know enough about metaprogramming to know if this is an issue)

Comment (kbuzzard) [inline Mathlib/Data/Rat/Cast/Order.lean:268]: (again is it fine that all these instances have the same name? I don't know enough about metaprogramming to know if this is an issue)

File: Mathlib/Order/Interval/Set/IsoIoo.lean [hunk 14]
```diff
@@ -20,7 +20,8 @@ open Set
 We consider the actual implementation to be a "black box", so it is irreducible.
 -/
 @[irreducible]
-def orderIsoIooNegOneOne (k : Type*) [LinearOrderedField k] : k ≃o Ioo (-1 : k) 1 := by
+def orderIsoIooNegOneOne (k : Type*) [Field k] [LinearOrder k] [IsStrictOrderedRing k] :
+    k ≃o Ioo (-1 : k) 1 := by
```
Comment (kbuzzard) [inline Mathlib/Order/Interval/Set/IsoIoo.lean:24]: buzzard note to self: I have reviewed up until here. I have a two-hour committee meeting to go to right now though, I will start again from this point afterwards but I'll finish the review so people have the chance to look at the issues which I've raised so far.

File: Mathlib/Algebra/Order/Field/Power.lean (hunk 4 above)
Comment (mattrobball) [reply Mathlib/Algebra/Order/Field/Power.lean:210]: Do we even need variable names here and elsewhere?

File: Mathlib/Algebra/Order/Group/Abs.lean [hunk 15]
```diff
@@ -145,21 +145,25 @@ theorem mabs_le_max_mabs_mabs (hab : a ≤ b) (hbc : b ≤ c) : |b|ₘ ≤ max |
     ⟨by simp [hbc.trans (le_mabs_self c)], by
       simp [(inv_le_inv_iff.mpr hab).trans (inv_le_mabs a)]⟩
 
+omit [IsOrderedMonoid G] in
```
Comment (mattrobball) [inline Mathlib/Algebra/Order/Group/Abs.lean:148]: These indicate that they are in the wrong module. Something to address on clean up.

File: Mathlib/Algebra/Order/Group/Synonym.lean [hunk 16]
```diff
@@ -161,6 +161,15 @@ instance [h : Semigroup α] : Semigroup (Lex α) := h
 @[to_additive]
 instance [h : CommSemigroup α] : CommSemigroup (Lex α) := h
 
+@[to_additive]
+instance [Mul α] [h : IsLeftCancelMul α] : IsLeftCancelMul (Lex α) := h
```
Comment (mattrobball) [inline Mathlib/Algebra/Order/Group/Synonym.lean:165]: Can these just use `inferInstanceAs`? Named instances are non-idiomatic.

File: Mathlib/Algebra/Order/Hom/Monoid.lean [hunk 17]
```diff
@@ -453,36 +451,40 @@ end Preorder
...
+theorem comp_mul [IsOrderedMonoid β] [IsOrderedMonoid γ] (g : β →*o γ) (f₁ f₂ : α →*o β) :
+    g.comp (f₁ * f₂) = g.comp f₁ * g.comp f₂ :=
   ext fun _ => map_mul g _ _
 
 end Mul
 
 section OrderedCommMonoid
 
-variable {hα : OrderedCommMonoid α} {hβ : OrderedCommMonoid β}
+variable {_ : Preorder α} {_ : Preorder β} {_ : MulOneClass α} {_ : MulOneClass β}
```
Comment (mattrobball) [inline Mathlib/Algebra/Order/Hom/Monoid.lean:487]: Not for this PR, but there should be a systematic review of this pattern at some point.

File: Mathlib/Algebra/Order/Interval/Set/Instances.lean [hunk 18]
```diff
@@ -259,23 +267,24 @@ instance semigroup : Semigroup (Ioc (0 : α) 1) := fast_instance%
 instance monoid : Monoid (Ioc (0 : α) 1) := fast_instance%
   Subtype.coe_injective.monoid _ coe_one coe_mul coe_pow
 
-instance commSemigroup {α : Type*} [StrictOrderedCommSemiring α] :
-    CommSemigroup (Ioc (0 : α) 1) := fast_instance%
+instance commSemigroup {α : Type*} [CommSemiring α] [PartialOrder α] [IsStrictOrderedRing α] :
+    CommSemigroup (Ioc (0 : α) 1) :=
```
Comment (mattrobball) [inline Mathlib/Algebra/Order/Interval/Set/Instances.lean:271]: Flagging `fast_instance%` here also

**Review by mattrobball — APPROVED** [review]

**Review by kbuzzard — APPROVED** [review]
Modulo my comments on code which I don't understand, LGTM. I would just merge but I just want some assurances that the meta code is OK.

File: Mathlib/Algebra/Order/Group/Abs.lean (hunk 15 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Order/Group/Abs.lean:148]: At least one could add a `TODO` maybe?

File: Mathlib/Algebra/Order/Group/Synonym.lean (hunk 16 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Order/Group/Synonym.lean:165]: There is a ton of unchanged code above this which has this format.

Comment (mattrobball) [reply Mathlib/Algebra/Order/Group/Synonym.lean:165]: I agree but we shouldn't introduce new instances unless they are absolutely necessary. Unsure if this should hold things up but seems like an easy fix. 
```suggestion
instance [Mul α] [IsLeftCancelMul α] : IsLeftCancelMul (Lex α) := inferInstanceAs <| IsLeftCancelMul α
```
Haven't checked this works.

File: Mathlib/Algebra/Order/Group/Abs.lean (hunk 15 above)
Comment (mattrobball) [reply Mathlib/Algebra/Order/Group/Abs.lean:148]: I think that grepping for `omit` is enough since any `omit` has the same signal.

File: Mathlib/Data/Rat/Cast/Order.lean (hunk 13 above)
Comment (mattrobball) [reply Mathlib/Data/Rat/Cast/Order.lean:268]: Note to self `let __ ← synthInstanceQ` works.

**Comment by mattrobball** [comment]
Thanks! \n bors merge

**Comment by mattrobball** [comment]
bors merge
